US05739299
3-Amino-4-methoxy benzene sulphonylfluoride (1 part) was stirred in acetic/propionic acid 86/14 vol/vol (15 parts) and cooled to 0°-5° C. Nitrosyl sulphuric acid solution (1.9 parts) was dropwise and stirred at 0°-5° C. for 2 hours. The diazo solution was then added to a stirred mixture of N-ethyl-N-benzyl-m-toluidine (1.3 parts), methanol (50 parts), sulphamic acid (0.5 parts) and sodium acetate (5 parts) stirring in ice/water at 0°-5° C. After stirring for 2 hours under these conditions, the dye was filtered off and washed well with water. The damp solid was slurried in water and re-filtered. The dye was then stirred in methanol at room temperature for 1 hour, filtered, and dried at 50° C. to yield the product, 4-(2-methoxy-5-fluorosulphonylphenylazo)-3-methyl-N-ethyl-N-benzyl aniline (1.5 parts). When applied to polyester materials from an aqueous dispersion, the dye gave yellow shades. λmax 450.

reactant | 3-Amino-4-methoxy benzene sulphonylfluoride | NC=1C=C(C=CC1OC)S(=O)(=O)F | C7H8FNO3S
reactant | Nitrosyl sulphuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | N-ethyl-N-benzyl-m-toluidine | C(C)N(C1=CC(=CC=C1)C)CC1=CC=CC=C1 | C16H19N
reactant | sulphamic acid | S(N)(O)(=O)=O | H3NO3S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic propionic acid | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C.C(CC)(=O)O
solvent | methanol | CO | CH4O
product | 4-(2-methoxy-5-fluorosulphonylphenylazo)-3-methyl-N-ethyl-N-benzyl aniline | COC1=C(C=C(C=C1)S(=O)(=O)F)N=NC1=C(C=C(N(CC2=CC=CC=C2)CC)C=C1)C | C23H24FN3O3S
